US06635640B2
To a suspension of 4-pyridin-4-yl-1,3-dihydroindol-2-one acetic acid salt (5.50 g, 20.4 mmol) in methanol (160 mL), water (70 mL) and acetic acid (30 mL) was added concentrated hydrochloric acid (2 mL) followed by platinum(IV) oxide (360 mg). The mixture was hydrogenated for three days. It was then filtered through celite, which was washed with methanol. The filtrate was evaporated and dried under high vacuum. The residue was dissolved in methanol (500 mL) and treated with a basic resin (hydroxide form) at pH=9-10. The resin was removed by filtration and washed with methanol. The filtrate was evaporated and dried under high vacuum to give 4.2 g (96%) of 4-piperidin-4-yl-1,3-dihydroindol-2-one.

reactant | 4-pyridin-4-yl-1,3-dihydroindol-2-one acetic acid salt | 20.4 mmol, 5.50 g | C(C)(=O)O.N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
solvent | water | 70 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 360 mg | [Pt](=O)=O
product | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 4.2 g, 96% | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
